Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Dysuria 
 
Major Surgical or Invasive Procedure:
Indwelling foley catheter exchange (___)

 
History of Present Illness:
___ with PMH significant for low-risk prostate cancer (on active
surveillance), HTN and urinary retention (s/p TURP in ___ now
presenting with dark red urine, white penile discharge and
dysuria since this morning. He was at his baseline state of
health until ___ when he started experiencing suprapubic 
pain
and urinary retention while returning from a funeral in ___.
He presented to ___ ED on ___, where a Foley catheter was
placed with considerable relief in symptoms. This morning he
noticed mild suprapubic "cramping" pain, urine that was dark
pink/red, he had burning pain with urination, and he noticed 
some
white discharge on his underwear. He called his PCP who advised
him to present to ___ ED. 

He has had intermittent urinary retention since ___ and is
followed by an outpatient urologist. Prior to this current
presentation, he was mostly asymptomatic with the exception of
one episode of brown-stained urine which he noticed roughly a
week ago. Patient states he currently feels well. He denies
fever/chills, rigors, flank pain, nausea/emesis. 

In the ED, initial VS were:  T 100.7 BP 151/78 HR 119 RR 16 O2
95% on RA
Exam notable for: 
"Middle aged man in NAD, tachcycardic, lungs CTAB, heart RRR,
benign abd, no CVA tenderness, Foley in place draining cloudy
dark pink urine, penis with scant thick yellowish-white 
discharge
at urethral meatus, bilateral testes descended and non-tender,
2cm L epididymal cyst (chronic)."
Labs showed:  
-WBC 16 --> 18.9; Hb 14.2 --> 12.4; Plt 283 --> 203
-Cr 1.2 --> 1; K 5.6 (hemolyzed) --> 3.6
-UA large leuks, large blood, nitrite positive, trace ketones, >
182 RBC and WBC
Imaging showed:  None  
Consults:  None
Patient received:  
-Normal saline
-CTX
-Lactated ringers
-IV Tylenol
-Timolol
-Home hydrochlorothiazide
-Home phosphorus
 
Transfer VS were:  T 98.2 BP 102/65 HR 80 RR 18 O2 96% on RA

On arrival to the floor, patient reports no new complaints. His
vitals are currently: Temp: 98.3 PO BP: 133/80 R Lying HR: 80 
RR:
16 O2 sat: 98% O2 delivery: Ra. 

 
Past Medical History:
Prostate cancer, s/p biopsy with ___ 3+3 = 6 prostate 
cancer,
followed with active surveillance for now
Hyperlipidemia
Hypertension
TURP in ___
Back lipoma excision
Nasal polyp excision
 
Social History:
___
Family History:
Mother died of unknown cause. Father and 2 siblings have DM2 and
are otherwise healthy.  An uncle had prostate cancer and died in
his ___, though "he was an alcoholic and did not go to 
doctors."
 
Physical Exam:
ADMISSION EXAM:
VS: Temp: 98.3 PO BP: 133/80 R Lying HR: 80 RR: 16 O2 sat: 98% 
O2
delivery: Ra  
GENERAL: NAD, sitting comfortably in bed accompanied by son
___: anicteric sclera, pink conjunctiva, MMM
NECK: no JVD  
HEART: RRR, normal S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
ABDOMEN: Normoactive bowel sounds.  Abdomen is soft,
nondistended, nontender in all quadrants, with no
rebound/guarding. 
EXTREMITIES: Warm and well perfused.
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII grossly intact.  Moving all four extremities
with purpose.
SKIN: Scar at site of lipoma resection on his back, no rashes
GU: Foley in place, draining dark brown/yellow urine, no CVA
tenderness.  No testicular pain or swelling.  No epididymitis. 
There is no longer purulent discharge from the urethral meatus. 

DISCHARGE EXAM:
Vitals: ___ 0420 Temp: 100.8 PO BP: 136/80 HR: 83 RR: 18 O2
sat: 95% 
GENERAL: NAD, sitting comfortably in bed 
___: anicteric sclera, pink conjunctiva, MMM
NECK: no JVD  
HEART: RRR, normal S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
ABDOMEN: Normoactive bowel sounds.  Abdomen is soft,
nondistended, nontender in all quadrants, with no
rebound/guarding. 
EXTREMITIES: Warm and well perfused. No edema.
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, Moving all four extremities
with purpose.
SKIN: Scar at site of lipoma resection on his back, no rashes
GU: Foley in place, draining dark yellow urine.  No testicular
pain or swelling.  No epididymitis. 
 
Pertinent Results:
ADMISSION LABS:
___ 03:46AM   LACTATE-1.2
___ 03:42AM   GLUCOSE-139* UREA N-13 CREAT-1.0 SODIUM-134* 
POTASSIUM-3.6 CHLORIDE-98 TOTAL CO2-25 ANION GAP-11
___ 03:42AM   CALCIUM-8.8 PHOSPHATE-1.7* MAGNESIUM-1.6
___ 03:42AM   WBC-18.9* RBC-4.36* HGB-12.4* HCT-36.6* 
MCV-84 MCH-28.4 MCHC-33.9 RDW-13.4 RDWSD-41.3
___ 03:42AM   PLT COUNT-203
___ 04:45PM   LACTATE-2.3*
___ 04:42PM   GLUCOSE-149* UREA N-13 CREAT-1.2 SODIUM-133* 
POTASSIUM-5.6* CHLORIDE-92* TOTAL CO2-27 ANION GAP-14
___ 04:42PM   WBC-16.0* RBC-5.10 HGB-14.2 HCT-43.8 MCV-86 
MCH-27.8 MCHC-32.4 RDW-13.4 RDWSD-41.9
___ 04:42PM   NEUTS-89.5* LYMPHS-2.8* MONOS-7.1 EOS-0.0* 
BASOS-0.1 IM ___ AbsNeut-14.31* AbsLymp-0.44* AbsMono-1.13* 
AbsEos-0.00* AbsBaso-0.02
___ 04:42PM   PLT COUNT-283
___ 04:20PM URINE  HOURS-RANDOM
___ 04:20PM URINE  UHOLD-HOLD
___ 04:20PM URINE  COLOR-Red* APPEAR-Cloudy* SP ___
___ 04:20PM URINE  BLOOD-LG* NITRITE-POS* PROTEIN-100* 
GLUCOSE-NEG KETONE-TR* BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-LG*
___ 04:20PM URINE  RBC->182* WBC->182* BACTERIA-FEW* 
YEAST-NONE EPI-0
___ 04:20PM URINE  WBCCLUMP-OCC* MUCOUS-RARE*

PERTINENT MICRO:
Time Taken Not Noted     Log-In Date/Time: ___ 11:32 pm
      URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 

                  **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      ESCHERICHIA COLI.    >100,000 CFU/mL.  PRESUMPTIVE 
IDENTIFICATION. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMIKACIN--------------    16 S
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--  =>32 R
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------  =>16 R
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------  =>16 R
TRIMETHOPRIM/SULFA----  =>16 R

BCx x2 (___):  NGTD
BCx x2 (___):  NGTD

DISCHARGE LABS:
___ 06:04AM BLOOD WBC-9.0 RBC-4.19* Hgb-11.7* Hct-35.6* 
MCV-85 MCH-27.9 MCHC-32.9 RDW-13.3 RDWSD-41.0 Plt ___
___ 06:04AM BLOOD Glucose-107* UreaN-10 Creat-0.9 Na-138 
K-3.8 Cl-99 HCO3-24 AnGap-15
___ 06:04AM BLOOD Calcium-8.6 Phos-3.4 Mg-2.0
___ 03:46AM BLOOD Lactate-1.2
 
Brief Hospital Course:
PATIENT SUMMARY:
================
___ with PMHx BPH, HTN, HLD who presents with a chief complaint
of two days of suprapubic pain, penile pain and discharge. Found 
to have leukocytosis, pyuria, and penile discharge concerning 
for CAUTI.

ACUTE ISSUES:
=============
# CATHETER-ASSOCIATED UTI:
Pt initially presented to the ED on ___ with a chief 
complaint of urinary retention, for which an indwelling foley 
catheter was placed. Over the next 2 days, Pt began to have 
progressive penile pain and white penile discharge - for which 
he presented to the ED again on ___. He was found to have 
leukocytosis, borderline BPs, and fever due to infection from 
suspected urinary source. His Foley catheter was replaced on 
arrival to the ED, and he was admitted to the medicine service. 
Labs were significant for leukocytosis (~19), but no CVA 
tenderness concerning for pyelonephritis. Reassuringly, he did 
not have prostate tenderness or bogginess concerning for 
prostatitis. WBC normalized during this admission (~9 on 
___. Urine culture grew E. coli, susceptible to 
ciprofloxacin but with extended resistance concerning for 
nosocomial source. Gonorrhea/Chlamydia testing was negative. He 
was started on ceftriaxone on ___ and switched to ciprofloxacin 
after antimicrobial sensitivities were received, for a total of 
a 10-day course given ongoing foley catheter need.

Pt is to keep the current foley catheter in place for another 
___ days, until such time as he is able to follow up with his 
urologist. He will continue on ciprofloxacin for a 10-day course 
(end of therapy ___.

CHRONIC ISSUES:
===============
# HISTORY OF BPH and
# HISTORY OF LOW-GRADE PROSTATE CANCER ___ 3+3 = 6) with
# URINARY RETENTION:
Patient continued with Flomax during this admission. However, 
given his initial presentation on ___ with urinary 
retention, may require titration of urology medications. He was 
discharged with a Foley catheter in place and is to f/u with 
urology as above.

# HISTORY OF HYPERLIPIDEMIA:
Patient continued on his home statin.

# HISTORY OF HYPERTENSION
Home HCTZ and Lisinopril were held upon admission in the setting 
of acute illness. He was restarted on HCTZ at his home dose 
prior to discharge, with plans to hold lisinopril pending 
further stability of blood pressures in the outpatient setting.

TRANSITIONAL ISSUES:
====================
# Code: Full (confirmed) 
# Contact: ___ (wife) ___

[ ] MEDICATION CHANGES:
-Added: Ciprofloxacin (D1 ___ - D10 ___
-Held: Lisinopril 20mg (owing to stable blood pressures; can be 
resumed with PCP evaluation in the outpatient setting)

[ ] INDWELLING FOLEY CATHETER:
-Pt left with foley catheter prior to discharge.
-Please consider trial of voiding and further titration of 
urinary retention medications with assistance of Urology.
-Please discuss possible surgical procedures (prostatectomy, 
revision of TURP, or other urologic procedures) with Pt given 
ongoing urinary retention.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 20 mg PO QPM 
2. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
3. Hydrochlorothiazide 12.5 mg PO DAILY 
4. Lisinopril 20 mg PO DAILY 
5. Tamsulosin 0.4 mg PO QHS 
6. Timolol Maleate 0.5% 1 DROP BOTH EYES DAILY 
7. Lumigan 0.03% Ophth  (*NF*) 1  DROP Other QPM 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H Duration: 13 Doses 
D1 ___ - D10 ___ 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth twice a day 
Disp #*13 Tablet Refills:*0 
2.  Atorvastatin 20 mg PO QPM  
3.  Fluticasone Propionate NASAL 1 SPRY NU DAILY  
4.  Hydrochlorothiazide 12.5 mg PO DAILY  
5.  Lumigan 0.03% Ophth  (*NF*) 1  DROP Other QPM  
6.  Tamsulosin 0.4 mg PO QHS  
7.  Timolol Maleate 0.5% 1 DROP BOTH EYES DAILY  
8. HELD- Lisinopril 20 mg PO DAILY  This medication was held. Do 
not restart Lisinopril until you have your blood pressure 
checked by your doctor

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
Catheter-associated urinary tract infection
Urinary retention

SECONDARY DIAGNOSES:
History of benign prostatic hyperplasia
History of low-grade prostate cancer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking part in your care here at ___!

Why was I admitted to the hospital?
- You were admitted for a urinary tract infection associated 
with your indwelling catheter.

What was done for me while I was in the hospital?
- We gave you fluids through the IV to make sure you were 
well-hydrated. 
- We gave you antibiotics to treat the urinary tract infection.

What should I do when I leave the hospital?
- Please take your medications as prescribed.
- Please follow up with your doctors as below.

Sincerely,

Your ___ Care Team
 
Followup Instructions:
___